US05629343
2-Methylene-4-phenylbutyric acid
4-Phenyl-2-methylenebutyric acid, ethyl ester (10 g, 49 mmole) was dissolved in 100 mL of absolute ethanol. Potassium hydroxide (3.32 g, 85%, 50 mmole) was added to the solution and the solution stirred overnight at room temperature. After 18 h, all of the ester was hydrolyzed. The solvent was removed under reduced pressure and the syrup dissolved in water. Enough concentrated HCl was added to acidify the solution (pH<3) and the product was extracted with ether (3×50 mL). The solution was dried over MgSO4, filtered and the solvent removed under reduced pressure. Recovered 8.6 g of product (97% yield).

reactant | 4-Phenyl-2-methylenebutyric acid, ethyl ester | 49 mmole, 10 g | C1(=CC=CC=C1)CCC(C(=O)OCC)=C | C13H16O2
reactant | Potassium hydroxide | 50 mmole, 3.32 g | [OH-].[K+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-Methylene-4-phenylbutyric acid | 8.6 g, 97% yield | C=C(C(=O)O)CCC1=CC=CC=C1 | C11H12O2
